US07989462B2
(3,4-Dimethoxy-phenyl)-(quinazolin-4-yl)-methylamine
The title compound was prepared from (3,4-dimethoxy-phenyl)-quinazolin-4-yl-amine (130 mg, 0.46 mmol), methyl iodide (0.043 ml, 0.7 mmol), sodium hydride (28 mg, 0.7 mmol, 60% oil dispersion) in DMF similar to example 21 to give 2.0 mg (2%) of white solids. 1H NMR (CDCl3): 7.88 (s, 1H), 7.55-7.45 (m, 2H), 7.31 (d, J=7.2 Hz, 1H), 6.97 (t, J=7.2 Hz, 1H), 6.86 (d, J=8.4 Hz, 1H), 6.45 (d, J=2.1 Hz, 1H), 6.37 (d, J=2.4 Hz, J=8.1 Hz, 1H), 3.91 (s, 3H), 3.82 (s, 3H), 3.53 (s, 3H).

reactant | (3,4-dimethoxy-phenyl)-quinazolin-4-yl-amine | 0.46 mmol, 130 mg | COC=1C=C(C=CC1OC)NC1=NC=NC2=CC=CC=C12 | C16H15N3O2
reactant | methyl iodide | 0.7 mmol, 0.043 ml | CI | CH3I
reactant | sodium hydride | 0.7 mmol, 28 mg | [H-].[Na+]
solvent | DMF | CN(C)C=O | C3H7NO
product | (3,4-Dimethoxy-phenyl)-(quinazolin-4-yl)-methylamine | COC=1C=C(C=CC1OC)N(C)C1=NC=NC2=CC=CC=C12 | C17H17N3O2
